US07955664B2
10.6 g (38.8 mmol) of 7-bromo-6-fluoro-3-propylchroman are initially introduced in 100 ml of THF, and 27 ml (43.0 mmol) of a 15 percent solution of n-butyllithium in hexane are added dropwise. After 90 min, 10.0 g (39.4 mmol) of iodine, dissolved in 50 ml of THF, are added, the mixture is stirred for 1 h, and the cooling is removed. The batch is diluted with MTB ether, washed with water and with sat. sodium hydrogensulfite soln. and dried over sodium sulfate. The solvent is removed in vacuo, and the crude product is filtered through silica gel with heptane/toluene (4:1), giving 6-fluoro-7-iodo-3-propylchroman as a colourless solid, which is sufficiently pure for further reaction.

reactant | 7-bromo-6-fluoro-3-propylchroman | 38.8 mmol, 10.6 g | BrC1=C(C=C2CC(COC2=C1)CCC)F | C12H14BrFO
reactant | n-butyllithium | C(CCC)[Li]
reactant | iodine | 39.4 mmol, 10.0 g | II | I2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 6-fluoro-7-iodo-3-propylchroman | FC=1C=C2CC(COC2=CC1I)CCC | C12H14FIO
